US05998433
a) Synthesis of 5-[4-(3-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridine
To a solution of 0.114 g (0.720 mmol) of 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride, 0.175 g (0.67 mmol) of 4-(3-chlorobenzoyl)benzoic acid and 0.4 ml (2.9 mmol) of triethylamine in 30 ml of dichloromethane, 0.18 g (1.1 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. This mixture was poured into water and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The-resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate/dichloromethane=3/1/1). The resulting purified product was recrystallized from methanol-hexane to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride | 0.720 mmol, 0.114 g | Cl.O1C=CC=2CNCCC21
reactant | 4-(3-chlorobenzoyl)benzoic acid | 0.67 mmol, 0.175 g | ClC=1C=C(C(=O)C2=CC=C(C(=O)O)C=C2)C=CC1 | C14H9ClO3
reactant | triethylamine | 2.9 mmol, 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 1.1 mmol, 0.18 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-[4-(3-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | ClC=1C=C(C(=O)C2=CC=C(C(=O)N3CC4=C(CC3)OC=C4)C=C2)C=CC1 | C21H16ClNO3
